US07648983B2
(4S)-4-(5-bromo-2,4-difluorophenyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-amine
To a 0° C. solution of (4S)-4-amino-4-(5-bromo-2,4-difluorophenyl)pentan-2-ol (1.3 g, 4.4 mmoles) as a mixture of diastereomers in THF (50 mL) is added benzoyl isothiocyanate (1.4 g, 1.2 mmoles) dropwise and the reaction is stirred for 1 h. The reaction mixture is concentrated under reduced pressure. The residue is dissolved in dioxane (5 mL) and transferred to a thick-walled glass reaction vessel. To the mixture is added 5 N hydrogen chloride (75 mL, 375 mmoles) and the reaction is heated to 100° C. After 36 h, the solvent is removed under reduced pressure and the residue is dissolved in water. The water mixture is extracted with ethyl acetate. The aqueous phase is made basic with 5N NaOH and extracted with 3:1 chloroform:IPA. The chloroform: IPA phase is dried over sodium sulfate, filtered and the solvent removed under reduced pressure to give the title compound.

reactant | (4S)-4-amino-4-(5-bromo-2,4-difluorophenyl)pentan-2-ol | 4.4 mmoles, 1.3 g | N[C@](CC(C)O)(C)C1=C(C=C(C(=C1)Br)F)F | C11H14BrF2NO
reactant | benzoyl isothiocyanate | 1.2 mmoles, 1.4 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | hydrogen chloride | 375 mmoles, 5 N, 75 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4S)-4-(5-bromo-2,4-difluorophenyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-amine | 64% yield | BrC=1C(=CC(=C(C1)[C@]1(N=C(SC(C1)C)N)C)F)F | C12H13BrF2N2S
